Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / egg
 
Attending: ___.
 
Chief Complaint:
Fall downstairs 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ old independent man with a 
history of CAD with 1 stent, who slipped on black ice this 
morning and fell down a flight of ___ stairs. He did not have 
head strike or loss of consciousness. He reported some left 
sided chest pain and shortness of breath, as well as some left 
shoulder pain. He was brought to an OSH and underwent left sided 
rib and
left shoulder xrays, which revealed L sided ___ rib 
fractures. He did have an oxygen requirement, and was 
transferred to ___ for further evaluation. A c-collar was 
placed. Upon our evaluation in the ED, he was complaining of 
left sided chest pain consistent with rib fractures, but 
otherwise appeared
fairly comfortable.
 
Past Medical History:
Past Medical History: CAD s/p stent, BPH, HTN, early lymphoma

Past Surgical History: diagnostic laparoscopy with abdominal
lymph node biopsy (___)

 
Social History:
___
Family History:
Parents both died of cancers
 
Physical Exam:
Admission Physical Exam:

V/S: T98.1, HR74, BP138/76, RR13, Sat96% 2L NC
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R, tenderness to
palpation over left lower chest wall without ecchymosis or
crepitus
ABD: Soft, nondistended, nontender, no rebound or guarding
Back: No midline tenderness, stepoffs, or deformities
Ext: No ___ edema, ___ warm and well perfused, superficial
abraision of right anterior shin, 2cm ecchymosis with 1cm
abrasion of L hip just under ASIS
Neuro: Motor/sensory grossly intact; CNII-XII grossly intact

Discharge Physical Exam:
VS: T: 98.4 PO 124 / 85 R Sitting HR: 79 RR: 18 O2: 92% ra 
GEN: A+Ox3, NAD
HEENT: MMM, atraumatic
CHEST: symmetric expansion, no crepitus, old left chest tube 
site covered with occlusive dressing
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation
EXT: wwp, no edema b/l
 
Pertinent Results:
IMAGING:

___: CT C-spine:
1. No acute fracture or malalignment.  No prevertebral soft 
tissue swelling. 
2. 1.9 cm right hypodense thyroid nodule for which further 
assessment with 
thyroid ultrasound is suggested, if not done previously. 

___: CT Head:
1. No acute intracranial bleed.  No fracture. 
2. Mild paranasal sinus disease as described above. 

___: CT Torso:
1. Minimally displaced acute fractures of left lateral ribs 7 
through 11. 
Additionally, there is a segmental fracture of the left lateral 
ninth rib. 
2. Small left hemothorax.  No pneumothorax, evidence of 
pulmonary laceration 
or contusion. 
3. No evidence of solid organ injury or mesenteric injury within 
the imaged 
abdomen and pelvis. 
4. Mild fat stranding of the left lateral gluteal region without 
skin 
laceration. 
5. Mediastinal, right hilar, and abdominal lymphadenopathy in 
keeping with 
patient's lymphoma history. 
6. 1.9 cm heterogeneous right thyroid nodule. Ultrasound follow 
up 
recommended. 
___ College of Radiology guidelines recommend further 
evaluation for 
incidental thyroid nodules of 1.0 cm or larger in patients under 
age ___ or 1.5 
cm in patients age ___ or ___, or with suspicious findings. 
7. Indeterminate 1.4 cm left adrenal nodule.  While this may 
reflect an 
adrenal adenoma, given the history of malignancy, a dedicated 
adrenal CT can 
be performed for further assessment. 
8. Prostatomegaly. 
9. 3 mm left upper lobe pulmonary nodule for which a follow-up 
chest CT can be 
obtained in 12 months in a high risk patient.  See 
recommendations below. 
  
RECOMMENDATION(S): 
1. 1.5 cm heterogeneous right thyroid nodule. Ultrasound follow 
up 
recommended. ___ College of Radiology guidelines recommend 
further evaluation for incidental thyroid nodules of 1.0 cm or 
larger in patients under age ___ or 1.5 cm in patients age ___ or 
___, or with suspicious findings. 
  
2.  Dedicated adrenal CT can be obtained for further assessment 
of the left adrenal nodule. 
  
 3.  For incidentally detected single solid pulmonary nodule 
smaller than 6 mm, no CT follow-up is recommended in a low-risk 
patient, and an optional CT in 12 months is recommended in a 
high-risk patient. 

___: CXR:
Lungs are low volume with subsegmental atelectasis in the left 
lung base.  
Cardiomediastinal silhouette is stable.  Small left pleural 
effusion is 
unchanged.  No pneumothorax is seen.  No new consolidations.  
There are stable left-sided rib fractures 

___: CT Chest:
1. New moderate-sized nonhemorrhagic left pleural effusion with 
underlying 
left lower lobe atelectasis versus consolidation. 
2. Innumerable subcentimeter short axis mediastinal lymph nodes 
although do not meet size criteria for pathologic enlargement 
are too numerous and 
correlation with history of any underlying malignancy such as 
lymphoma or 
sarcoidosis should be considered.  In the absence of such 
history, further 
workup may be considered. 
3. 8 mm enhancing nodule within the pancreatic ___ be 
further evaluated by a dedicated MRI for further 
characterization.  Differentials include intrapancreatic splenic 
tissue versus a neuroendocrine tumor. 
4. Unchanged left adrenal nodule may be evaluated at the same 
time during the MRI.  Incidentally noted are multiple bilateral 
peripelvic cysts and a 3 mm nonobstructing left renal calculus. 
5. Unchanged appearance of minimally displaced acute fracture of 
the left 
lateral ribs 7, through 11. Segmental fracture of the left 
lateral ninth rib also noted. 
  
RECOMMENDATION(S):  Please see impression 2 and 3. 

___: US THORACENTESIS NEEDLE
Successful US-guided drainage of left hemothorax to completion, 
with placement of an ___ pigtail catheter attached to 
Pleur-Evac. 

___: CXR:
Status post removal of left pigtail catheter.  No definite 
pneumothorax.

LABS:

___ 07:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:45PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 07:45PM URINE  MUCOUS-RARE*
___ 03:02PM   GLUCOSE-139* UREA N-16 CREAT-0.8 SODIUM-140 
POTASSIUM-4.9 CHLORIDE-105 TOTAL CO2-19* ANION GAP-16
___ 03:02PM   WBC-13.8* RBC-4.73 HGB-13.6* HCT-39.4* MCV-83 
MCH-28.8 MCHC-34.5 RDW-13.1 RDWSD-39.8
___ 03:02PM   NEUTS-81.5* LYMPHS-13.7* MONOS-4.1* EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-11.22* AbsLymp-1.89 AbsMono-0.56 
AbsEos-0.01* AbsBaso-0.01
___ 03:02PM   PLT COUNT-195
 
Brief Hospital Course:
Mr. ___ is a ___ yo M who presented to the emergency 
department after a fall down 12 stairs after slipping on black 
ice per patient report. Denies head strike or loss of 
consciousness. Imaging revealed left sided rib fractures ___ 
and small left sided hemothorax. The patient was admitted to the 
Acute Care Trauma surgery service on ___ for pain control 
and respiratory monitoring. 

On HD1 tertiary survey was preformed and revealed no further 
injuries.  Interval chest x-rays were obtained and there was 
concern that the left pleural effusion was not resolving.  A 
pigtail chest tube was placed by Interventional Radiology on 
___ with an immediate 700 ml sanguineous output.  The chest 
tube was ultimately removed on ___. Repeat chest x-ray 
showed no pneumothorax.   

The patient was alert and oriented throughout hospitalization; 
pain was managed with oxycodone and acetaminophen.  He remained 
stable from a cardiovascular and pulmonary standpoint; vital 
signs were routinely monitored. Good pulmonary toilet, early 
ambulation and incentive spirometry were encouraged throughout 
hospitalization. 
The patient tolerated a regular diet. Patient's intake and 
output were closely monitored.  The patient's fever curves were 
closely watched for signs of infection, of which there were 
none. The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  The patient received CD 
copies of all his ___ imaging for him to provide to his PCP 
and ___ copy of the d/c summary was faxed to his PCP's office.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Finasteride 5 mg PO DAILY 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID constipation  
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Lidoderm] 5 % Apply patch to area of rib pain QAM 
Disp #*15 Patch Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Wean as tolerated. Patient may request partial fill.  
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Finasteride 5 mg PO DAILY  
9.  Metoprolol Succinate XL 12.5 mg PO DAILY  
10.  Senna 8.6 mg PO BID:PRN constipation  
11.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left rib fractures ___
Left hemothorax
Left pleural effusion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery service on ___ 
after a fall sustaining left sided rib fractures. You were found 
to have a moderate amount of fluid in the lung space that was 
caused by the injury to your ribs.  A chest tube was placed to 
help drain this fluid from your lung space and was then later 
removed.  You were given pain medication, supplemental oxygen, 
and encouraged to take deep breaths, walk, and cough to help 
your body re-absorb the fluid. You are now doing better, oxygen 
levels are adequate, and your pain is better controlled with 
pain pills. You were evaluated by the physical therapist who 
recommends discharge to home with continued physical therapy at 
home. You will also have visiting nursing services come to your 
home. 

Please have a follow up chest xray done prior to your clinic 
visit. 

Please note the following discharge instructions:

* Your injury caused left sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___